US05530119
Following the procedure of Example 6, but replacing 1-benzylpiperazine with 1-[4-nitrobenzyl]piperazine, provided the desired compound. To a solution of piperazine (2 g, 0.023 mol) in 10 mL of ethanol added a solution of 4-nitrobenzyl bromide (5 g, 0.023 mol) in 20 mL of warm ethanol. It was gently refluxed for 1 hour and stirred at room temperature for one over night. The resulting white precipitate was filtered, washed with a small amount of cold ethanol, and dried to yield 1-[4-nitrobenzyl]piperazine hydrobromide (3 g). MS m/z M+H=222, H1 -NMR (in MeOH-d4) δ=2.7 (t, 4H, piperazine), 3.25 (t, 4H, piperazine), 3.75 (s, 2H, benzyl), 7.62 (d, 2H, aromatic), 8.20 (d, 2H, aromatic). The obtained 1-[4-nitrobenzyl]piperazine hydrobromide (3 g, 9.93 mmol) was dissolved in 60 mL of 3N sodium hydroxide aqueous solution and stirred at room temperature for 30 minutes. The product was extracted with ethyl acetate (50 mL×3), and the combined ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate. Solvent was removed to obtain 1.7 g of 1-[4-nitrobenzyl]piperazine in 78% yield. MS m/z M+H=222, H1 -NMR (in MeOH-d4) δ2.45 (t, 4H, piperazine), 2.90 (t, 4H, piperazine), 3.55 (s, 2H, benzyl), 7.52 (d, 2H, aromatic), 8.50 (d, 2H, aromatic). The product of Example 3 (2.1 g, 2.03 mmol), 1-[4-nitrobenzyl]piperazine (1.7 g, 8.1 mmol), and triethylamine (0.85 mL, 6.09 mmol) in 10 mL of methylene chloride were used. The reaction was carried out at 45° C. for 15 hours. 1.07 g of semi-pure compound was isolated in 48% yield. MS (FAB) m/z: M+K=1147. M+H=1109. The obtained product (1.0 g, 0.9 mmol) was treated with 48%-HF (4 mL) in 30 mL of acetonitrile in the procedure described in Example 5, except stirred at 45° C. for 3 hours. 554 mg of the pure title compound was isolated in 50% yield after RP-HPLC. MS (FAB) m/z: M+K=1033. M+H=996. mp=113° C. (dec.)

reactant | 1-[4-nitrobenzyl]piperazine hydrobromide | 9.93 mmol, 3 g | Br.[N+](=O)([O-])C1=CC=C(CN2CCNCC2)C=C1
solvent | sodium hydroxide | 3N, 60 mL | [OH-].[Na+]
product | 1-[4-nitrobenzyl]piperazine | 1.7 g, 78% yield | [N+](=O)([O-])C1=CC=C(CN2CCNCC2)C=C1 | C11H15N3O2
